US04234579
Penicillanic Acid 1,1-Dioxide
To a mixture of 7,600 ml. of water and 289 ml. of glacial acetic acid was added, portionwise, 379.5 g. of potassium permanganate. This mixture was stirred for 15 minutes, and then it was cooled to 0° l C. To it was then added, with stirring, a mixture which had been prepared from 270 g. of penicillanic acid, 260 ml. of 4 N sodium hydroxide and 2,400 ml. of water (pH 7.2), and which had then been cooled to 8° C. The temperature rose to 15° C. during this latter addition. The temperature of the resulting mixture was reduced to 5° C. and the stirring was continued for 30 minutes. To the reaction mixture was then added 142.1 g. of sodium bisulfite, in portions, during 10 minutes. The mixture was stirred for 10 minutes at 10° C., and then 100 g. of supercel (a diatomaceous earth) was added. After a further 5 minutes of stirring, the mixture was filtered. To the filtrate was added 4.0 liters of ethyl acetate, and then the pH of the aqueous phase was lowered to 1.55 using 6 N hydrochloric acid. The ethyl acetate layer was removed and combined with several further ethyl acetate extracts. The combined organic layer was washed with water, dried (MgSO4) and evaporated almost to dryness in vacuo. The slurry thus obtained was stirred with 700 ml. of ether at 10° C., for 20 minutes, and then the solid was collected by filtration. This afforded 82.6 g. (26% yield) of the title compound having a melting point of 154°-155.5° C. (dec.).

reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | penicillanic acid | CC1([C@@H](N2[C@H](S1)CC2=O)C(=O)O)C | C8H11NO3S
reactant | sodium hydroxide | 4 N | [OH-].[Na+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | ether | CCOCC | C4H10O
solvent | water | pH 7.2 | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Penicillanic Acid 1,1-Dioxide | 26% yield | CC1([C@@H](N2[C@H](S1(=O)=O)CC2=O)C(=O)O)C | C8H11NO5S
